US08202858B2
1-Benzoyl-4-bromo-1,2,3,4-tetrahydro-benzo[b]azepin-5-one
1-Benzoyl-1,2,3,4-tetrahydro-benzo[b]azepin-5-one from Example E5.6 (54.2 g, 205 mmol), N-bromosuccinimide (3.6 g, 20.4 mmol) and bromine (11.1 ml, 214.7 mmol) were dissolved in dichloromethane (1.0 liter). Triethylamine (30 ml, 215 mmol) was added dropwise over 30 minutes then the reaction mixture was heated at reflux for 4 h. Additional bromine (1.1 ml, 21.5 mmol) and triethylamine (3.0 ml, 21.5 mmol) were added and the reaction mixture was heated at reflux for a further 4 h. Additional bromine (1.1 ml, 21.5 mmol) and triethylamine (3.0 ml, 21.5 mmol) were added again and the reaction mixture was heated at reflux for a further 4 h. On cooling to room temperature, the reaction solution was washed with 5% aqueous sodium metabisulfate solution (150 ml) and the aqueous phase was diluted with water (600 ml). The organic phase was separated, washed with saturated Na—HCO3 (aq), dried over sodium sulphate and filtered. The filtrate was diluted with EtOAc (100 ml), filtered through a silica pad (eluant; CH2Cl2) and reduced in vacuo to yield the title compound (73.6 g) which was used without further purification.

reactant | 1-Benzoyl-1,2,3,4-tetrahydro-benzo[b]azepin-5-one | C(C1=CC=CC=C1)(=O)N1C2=C(C(CCC1)=O)C=CC=C2 | C17H15NO2
reactant | bromine | 214.7 mmol, 11.1 ml | BrBr | Br2
reactant | Triethylamine | 215 mmol, 30 ml | C(C)N(CC)CC | C6H15N
reactant | bromine | 21.5 mmol, 1.1 ml | BrBr | Br2
reactant | triethylamine | 21.5 mmol, 3.0 ml | C(C)N(CC)CC | C6H15N
reactant | bromine | 21.5 mmol, 1.1 ml | BrBr | Br2
reactant | triethylamine | 21.5 mmol, 3.0 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1.0 liter | ClCCl | CH2Cl2
catalyst | N-bromosuccinimide | 20.4 mmol, 3.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 1-Benzoyl-4-bromo-1,2,3,4-tetrahydro-benzo[b]azepin-5-one | 73.6 g | C(C1=CC=CC=C1)(=O)N1C2=C(C(C(CC1)Br)=O)C=CC=C2 | C17H14BrNO2
